US05175162
To a solution of 14.8 g of 2-(4-methoxyphenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]-pyridazin-3(2H)-one in 100 ml of 30% hydrogen bromide-acetic acid is added 6.1 ml of dimethylsulfoxide with stirring at room temperature. The mixture is stirred for 4 hours at room temperature, poured into ice-cold water and extracted with chloroform. The extract is washed with water, dried and concentrated under reduced pressure. The resulting crystals are recrystallized from a mixed solvent of toluene and isopropyl ether to give 10 g of 2-(4-methoxyphenyl)-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one as white crystals, melting at 126°-128° C.

reactant | 2-(4-methoxyphenyl)-4,4a,5,6-tetrahydrothieno[2',3':2,3]thiepino[4,5-c]-pyridazin-3(2H)-one | 14.8 g | COC1=CC=C(C=C1)N1N=C2C(CC1=O)CCSC1=C2C=CS1 | C17H16N2O2S2
reactant | dimethylsulfoxide | 6.1 ml | CS(=O)C | C2H6OS
solvent | hydrogen bromide acetic acid | 100 ml | Br.C(C)(=O)O
product | 2-(4-methoxyphenyl)-5,6-dihydrothieno[2',3':2,3]thiepino[4,5-c]pyridazin-3(2H)-one | 10 g | COC1=CC=C(C=C1)N1N=C2C(=CC1=O)CCSC1=C2C=CS1 | C17H14N2O2S2
